US07632833B2
8-Chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (4-1; a racemic mixture, 0.43 g, 1.1 mmol) was dissolved in anhydrous THF (10 mL) and cooled to −78° C. in an acetone/dry ice bath under an N2 atmosphere. The resulting solution was treated with LHMDS (1.39 mL of a 1M toluene solution, 1.39 mmol) and stirred 2 minutes to produce a deep red color. Allyl bromide (0.20 mL, 2.2 mmol) was added neat and the solution was allowed to stir 10 minutes at −78° C. and then removed from the ice bath. Upon reaching ambient temperature, the reaction was judged complete by TLC and quenched by at addition of sat. aqueous NH4Cl (10 mL). The mixture was extracted with Et2O (3×10 mL), dried over MgSO4, filtered and concentrated. The crude residue was purified using flash column chromatography (ISCO Redisep 40 g SiO2 column, 0-40% EtOAc/hexanes gradient) to provide pure 3-allyl-8-chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (4-2; a racemic mixture): 1H NMR (300 MHz, CDCl3) δ 7.42-7.15 (m, 6H), 6.77 (m, 2H), 5.83 (m, 1H), 5.27 (dd, J=16.9, 1.1 Hz, 1H), 5.21 (d, J=10.0 Hz, 1H), 4.10 (dd, J=10.3, 3.7 Hz, 1H), 3.90 (s, 3H), 3.63 (dd, J=11.0, 3.6 Hz, 1H), 3.35 (dd, J=13.4, 6.0 Hz, 1H), 3.32 (s, 3H), 2.96 (m, 2H); MS (M+H+, C22H22ClN3O3) 412.3 found 412.9 required.

reactant | 8-Chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | ClC=1C=CC2=C(N3C(CO2)C(C(=N3)C(=O)N(C)OC)C3=CC=CC=C3)C1 | C19H18ClN3O3
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | toluene | 1M | C1(=CC=CC=C1)C | C7H8
reactant | Allyl bromide | 2.2 mmol, 0.20 mL | C(C=C)Br | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-allyl-8-chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | C(C=C)C1(C(=NN2C1COC1=C2C=C(C=C1)Cl)C(=O)N(C)OC)C1=CC=CC=C1 | C22H22ClN3O3
